US03950533
O-(1-Methoxy-2-propyloxy)-phenol
90 parts of 44.5% strength sodium hydroxide solution are added drop by drop under nitrogen to a solution of 110 parts of pyrocatechol and 244 parts of 1-methoxy-2-propyl-p-toluenesulphonate in 500 parts by volume of dimethylsulphoxide. During the addition, the temperature rises to 42°C. The mixture is stirred for 14 hours at room temperature, poured into 2000 parts of water, and extracted three times each time with 250 parts by volume of toluene. The toluene solution is washed twice each time with 200 parts of water, and evaporated. The residue is distilled in a high vacuum. Boiling point 70°-82°C/0.04 mm Hg.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | pyrocatechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 1-methoxy-2-propyl-p-toluenesulphonate | COC1(C(C=C(C=C1)S(=O)(=O)[O-])CCC)C
reactant | dimethylsulphoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | O-(1-Methoxy-2-propyloxy)-phenol | COCC(C)OOC1=CC=CC=C1 | C10H14O3
